US07241773B2
3-(4-bromophenoxy)quinuclidine
3-Hydroxy quinuclidine (Aldrich, 1.27 g, 10 mmol) was treated with 4-bromo-iodobenzene (Aldrich, 2.82 g, 10 mmol) according to the procedure of Example 14A. The title compound was purified by chromatography (SiO2, CH2Cl2:MeOH:NH3.H2O, 90:10:1, Rf. 0.20) as oil (0.85 g, yield, 30%). 1H NMR (MeOH-d4, 300 MHz) δ 1.40–1.56 (m, 1H), 1.64–1.80 (m, 2H), 1.90–2.08 (m, 1H), 2.10–2.21 (m, 1H), 2.60–3.00 (m, 5H), 3.34–3.40 (m, 1H), 4.46 (m, 1H), 6.83 (d, J=9.5 Hz, 2H) 7.37 (d, J=9.2, Hz, 2H), ppm. MS (DCl/NH3) m/z 282 (M+H)+, 284 (M+H)+.

reactant | 3-Hydroxy quinuclidine | 10 mmol, 1.27 g | OC1CN2CCC1CC2 | C7H13NO
reactant | 4-bromo-iodobenzene | 10 mmol, 2.82 g | BrC1=CC=C(C=C1)I | C6H4BrI
product | 3-(4-bromophenoxy)quinuclidine | BrC1=CC=C(OC2CN3CCC2CC3)C=C1 | C13H16BrNO
